US03971814
Methyl 3-Hydroxy-Benzo[b]Thiopene-2-Carboximidate
A solution of 23 g (1 mol) of sodium in 1 l of anhydrous methanol is mixed with 84 g (0.5 mol) of methyl thiosalicylate while stirring. This is then mixed with 79 g (0.5 mol) of ethyl chloro-acetimidate hydrochloride and heated under reflux for 10 hours. The sodium chloride precipitate is filtered off and the desired product isolated by evaporation (yield: 73 g, m.p. 201°C).

reactant | sodium | 1 mol, 23 g | [Na] | Na
reactant | methyl thiosalicylate | 0.5 mol, 84 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | ethyl chloro-acetimidate hydrochloride | 0.5 mol, 79 g | Cl.ClCC(OCC)=N
solvent | methanol | 1 l | CO | CH4O
product | Methyl 3-Hydroxy-Benzo[b]Thiopene-2-Carboximidate | OC=1C2=C(SC1C(OC)=N)C=CC=C2 | C10H9NO2S
